US04333940
To a warm solution of N-carbobenzoyloxy-[2-fluoro-4-(hexadecylamino)benzoyl chloride and 1.3 g. of triethylamine in 100 ml. ether is added 1.2 g. of piperidine. An immediate precipitate forms, the mixture is refluxed for one hour and then filtered. The solid is extracted several times with hot ether, and the ether is evaporated to yield a white solid. The solid is dissolved in tetrahydrofuran (100 ml.) and hydrogenated over 600 mg. 110% Pd-on-carbon at 50 psi. until hydrogen up-take stops. The catalyst is filtered and the filtrate evaporated. The residue is crystallized from acetic acid to yield N-[2-fluoro-4-(hexadecylamino)benzoyl]piperidine as a crystalline mass.

reactant | 2-fluoro-4-(hexadecylamino)benzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)NCCCCCCCCCCCCCCCC | C23H37ClFNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-[2-fluoro-4-(hexadecylamino)benzoyl]piperidine | FC1=C(C(=O)N2CCCCC2)C=CC(=C1)NCCCCCCCCCCCCCCCC | C28H47FN2O
